US08236826B2
Production of N-[4-(5-nitropyridin-2-yloxy)phenyl]-2-(4-piperonylpiperazin-1-yl)acetamide
A solution of (4-piperonylpiperazin-1-yl)acetic acid (13.9 g, 50 mmol) was suspended in DMF (400 mL), and to the resulting suspension were added 1-hydroxybenzotriazole monohydrate (8.42 g, 55 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (10.5 g, 55 mmol) and 4-(5-nitropyridin-2-yloxy)phenylamine (11.6 g, 50 mmol) under ice cooling. The resulting solution was stirred for 6 hours at room temperature. The reaction solution was concentrated under reduced pressure. To the residue was added ethyl acetate, and washed with a saturated sodium bicarbonate solution and brine. The organic layer was left for standing overnight at room temperature, and the resulting precipitated crystals were collected by suction filtration, to thereby yield 12.8 g of the title compound.

reactant | (4-piperonylpiperazin-1-yl)acetic acid | 50 mmol, 13.9 g | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)CC(=O)O | C14H18N2O4
reactant | 1-hydroxybenzotriazole monohydrate | 55 mmol, 8.42 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 55 mmol, 10.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(5-nitropyridin-2-yloxy)phenylamine | 50 mmol, 11.6 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)N | C11H9N3O3
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | N-[4-(5-nitropyridin-2-yloxy)phenyl]-2-(4-piperonylpiperazin-1-yl)acetamide | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)NC(CN1CCN(CC1)CC1=CC=2OCOC2C=C1)=O | C25H25N5O6
